US07691843B2
3-Allyl-4-methoxybenzoic acid methyl ester was prepared from 3-Allyl-4-hydroxybenzoic acid methyl ester according to Method C using methyl iodide as an alkylating agent in quantative yield. This product was used without further purification.

reactant | 3-Allyl-4-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C=C1)O)CC=C)=O | C11H12O3
reactant | methyl iodide | CI | CH3I
product | 3-Allyl-4-methoxybenzoic acid methyl ester | COC(C1=CC(=C(C=C1)OC)CC=C)=O | C12H14O3
